US08466169B2
19c) N-Methoxy-N-methyl-4-(pentafluorosulfanyl)-2-(2,2,2-trifluoroacetylamino)benzamide
2-Amino-N-methoxy-N-methyl-4-(pentafluorosulfanyl)benzamide (2.3 g) was reacted with trifluoroacetic anhydride analogously to example 4c). 2.7 g of the desired product were obtained.

reactant | 2-Amino-N-methoxy-N-methyl-4-(pentafluorosulfanyl)benzamide | 2.3 g | NC1=C(C(=O)N(C)OC)C=CC(=C1)S(F)(F)(F)(F)F | C9H11F5N2O2S
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-Methoxy-N-methyl-4-(pentafluorosulfanyl)-2-(2,2,2-trifluoroacetylamino)benzamide | 2.7 g | CON(C(C1=C(C=C(C=C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O)=O)C | C11H10F8N2O3S
